US08247436B2
3-(2,5-Dimethyl-pyrrol-1-yl)-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid
6-Bromo-3-(2,5-dimethyl-pyrrol-1-yl)-5-trifluoromethyl-pyridine-2-carboxylic acid methyl ester (2 g, 5.30 mmol) was dissolved in MeOH (40 ml) and treated with 2M NaOH (20 ml) to give a suspension which was stirred at RT for 1 h to afford a clear solution. The solvent was removed in vacuo and the resulting residue was acidified to pH1 with 5M HCl. The mixture was extracted with EtOAc (200 ml) and the organic extract was dried (MgSO4) and concentrated in vacuo to afford the title compound as a dark brown solid which was used in the next step without further purification; LC-MS Rt=1.50 min[M+H]+ 315.2.1/316.2 (Method 2minLC_v002); 1H NMR (400 MHz, DMSO-d6) δ 14.42-12.61 (COOH, b), 8.25 (1H, s), 5.84 (2H, s), 4.13 (3H, s), 1.97 (6H, s); 19F NMR (400 MHz, DMSO-d6) δ −62.43 (CF3, s).

reactant | 6-Bromo-3-(2,5-dimethyl-pyrrol-1-yl)-5-trifluoromethyl-pyridine-2-carboxylic acid methyl ester | 5.30 mmol, 2 g | COC(=O)C1=NC(=C(C=C1N1C(=CC=C1C)C)C(F)(F)F)Br | C14H12BrF3N2O2
reactant | NaOH | 2M, 20 ml | [OH-].[Na+]
reactant | MeOH | 40 ml | CO | CH4O
product | 3-(2,5-Dimethyl-pyrrol-1-yl)-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | CC=1N(C(=CC1)C)C=1C(=NC(=C(C1)C(F)(F)F)OC)C(=O)O | C14H13F3N2O3
